US05344843
As in Example 15, 4-(-2-chlorophenyl)-2-(3-hydroxy-1-propynyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (0.369 g) was reacted with 4-hydroxyphenylglyoxylic acid ethyl ester (0.195 g) in the presence of diethyl azodicarboxylate (0.175 g) and triphenylphosphine (0.263 g) in dichloromethane (30 mL). The crude reaction product, isolated in the usual manner, was purified by flash chromatography over silica gel (120 g; ethanol-dichloromethane; 3.5:96.5) to furnish 0.398 g of 4-[3-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a] [1,4]diazepin-2-yl]-2-propynyloxy]-alpha-oxobenzeneacetic acid ethyl ester (4:1 ) hydrate as a white foam.

reactant | 4-(-2-chlorophenyl)-2-(3-hydroxy-1-propynyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 0.369 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCO)C(=NN2)C | C18H13ClN4OS
reactant | 4-hydroxyphenylglyoxylic acid ethyl ester | 0.195 g | C(C)OC(C(=O)C1=CC=C(C=C1)O)=O | C10H10O4
reactant | diethyl azodicarboxylate | 0.175 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.263 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-[3-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a] [1,4]diazepin-2-yl]-2-propynyloxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.398 g | C(C)OC(C(C1=CC=C(C=C1)OCC#CC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)Cl)=O)=O | C28H21ClN4O4S
